US09120749B2
{6-(3-Chloro-5-fluoro-4-hydroxyphenyl)-4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]quinolin-3-yl}(cyclopropyl)methanone
Following general procedure D, {6-bromo-4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]quinolin-3-yl}(cyclopropyl)methanone (30 mg, 0.066 mmol) was reacted with 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (41 mg, 0.150 mmol) to afford the desired product (23 mg, 67%) as a yellow solid: 1H NMR (500 MHz, CD3OD) δ 8.77 (s, 1H), 8.28 (d, J=1.3 Hz, 1H), 8.05-7.99 (m, 2H), 7.58-7.53 (m, 1H), 7.46 (dd, J=11.6, 2.2 Hz, 1H), 3.55 (d, J=13.1 Hz, 2H), 3.25-3.15 (m, 2H), 2.93-2.47 (m, 10H), 2.39 (s, 3H), 2.12 (d, J=10.8 Hz, 2H), 1.96-1.82 (m, 2H), 1.34-1.28 (m, 2H), 1.27-1.20 (m, 2H); ESI MS m/z 523 [C29H32ClFN4O2+H]+; HPLC>99% (AUC), tR=10.14 min.

reactant | {6-bromo-4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]quinolin-3-yl}(cyclopropyl)methanone | 0.066 mmol, 30 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N1CCC(CC1)N1CCN(CC1)C | C23H29BrN4O
reactant | 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.150 mmol, 41 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)F)O | C12H15BClFO3
product | {6-(3-Chloro-5-fluoro-4-hydroxyphenyl)-4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]quinolin-3-yl}(cyclopropyl)methanone | 23 mg, 67% | ClC=1C=C(C=C(C1O)F)C=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N1CCC(CC1)N1CCN(CC1)C | C29H32ClFN4O2
